US07592477B2
oxo{{1-[4-(trifluoromethyl)phenyl]ethyl}[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amino}acetic acid N-methyl-D-glucamine (i.e. 1-deoxy-1-(methylamino)glucitol) salt
The same procedure as employed in the preparation of Example 2 using oxo{{1-[4-(trifluoromethyl)phenyl]ethyl}[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amino}acetic acid and N-methyl-D-glucamine gave the title compound as a white powder (99%). M−(LC/MS(ESI)): 572.5. HPLC (Condition A), Rt: 6.90 min (HPLC purity: 99.4%).

reactant | oxo{{1-[4-(trifluoromethyl)phenyl]ethyl}[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amino}acetic acid | O=C(C(=O)O)N(CC1=CC=C(C=C1)C1=NC(=NO1)CCCCCCCCCCC)C(C)C1=CC=C(C=C1)C(F)(F)F | C31H38F3N3O4
reactant | N-methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
product | oxo{{1-[4-(trifluoromethyl)phenyl]ethyl}[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amino}acetic acid N-methyl-D-glucamine | 99% | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO.O=C(C(=O)O)N(CC1=CC=C(C=C1)C1=NC(=NO1)CCCCCCCCCCC)C(C)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C31H38F3N3O4.C7H17NO5/c1-3-4-5-6-7-8-9-10-11-12-27-35-28(41-36-27)25-15-13-23(14-16-25)21-37(29(38)30(39)40)22(2)24-17-19-26(20-18-24)31(32,33)34;1-8-2-4(10)6(12)7(13)5(11)3-9/h13-20,22H,3-12,21H2,1-2H3,(H,39,40);4-13H,2-3H2,1H3/t;4-,5+,6+,7+/m.0/s1
